US04455303
Phenylalanylphenylalanylvalyltyrosyllysine, RI-108
Lys, 1.06; Tyr, 0.92; Val, 1.01; Phe, 2.00; variance, 0.003; 0.25 Ci Mol-1 ; ε 280 nM, +3319°; M 578 nM ; RF : T3, 0.94; T4, 0.32; T2, 0.32; hplc, 1500 sec.; P, 0.14.

reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Val | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | Phenylalanylphenylalanylvalyltyrosyllysine | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CCCCN)C(=O)O | C38H50N6O7
